US06344476B1
To a slurry of NaH (5.98 g, 0.24 mol, 2.6 equiv) in anh. DME (800 mL) at 0° C. was added methyl glycolate (23.0 g, 0.26 mol, 2.8 equiv) over 20 min. The mixture was stirred for 1 h at room temp. and a solution of 3-chloro-4,4-dimethyl-2-pentenenitrile (13.1 g, 0.091 mol) in DME (100 mL) was added. The resulting solution was heated to 85° C. for 42 h, cooled to room temp., and treated with H2O (100 mL). The resulting mixture was separated between H2O (200 mL) and EtOAc (300 mL). The aqueous layer was extracted with EtOAc (2×200 mL). The combined organic layers were washed with a saturated NaCl solution, dried (Na2SO4), and concentrated under reduced pressure. The residual oil was purified by flash chromatography (300 g SiO2, gradient from 50% CH2Cl2/hexane to 20% EtOAc/CH2Cl2) to give methyl 3-amino-5-tert-butylfuran-2-carboxylate as a yellow solid (2.98 g, 17%): mp 91-2° C.; TLC (20% EtOAc/hexane) Rf0.36; 1H NMR (CDCl3) δ1.26 (s, 9H), 3.84 (s, 3H), 4.54 (br s, 2H), 5.75 (s, 1H); 13C NMR (CDCl3) δ28.5 (3C), 33.0, 50.7, 98.5, 128.8, 131.0, 160.7, 168.3.

reactant | NaH | 0.24 mol, 5.98 g, 2.6 equiv | [H-].[Na+]
reactant | methyl glycolate | 0.26 mol, 23.0 g, 2.8 equiv | C(CO)(=O)OC | C3H6O3
reactant | 3-chloro-4,4-dimethyl-2-pentenenitrile | 0.091 mol, 13.1 g | ClC(=CC#N)C(C)(C)C | C7H10ClN
reactant | H2O | 100 mL | O | H2O
solvent | DME | 800 mL | COCCOC | C4H10O2
solvent | DME | 100 mL | COCCOC | C4H10O2
product | methyl 3-amino-5-tert-butylfuran-2-carboxylate | 2.98 g, 17% | NC1=C(OC(=C1)C(C)(C)C)C(=O)OC | C10H15NO3
